US03979430
3.4 Gm. of 2-(5H-dibenzo[a,d]cyclohepten-5-on-2-yl)propionitrile is refluxed for 90 minutes in a mixture of 210 ml. of acetic acid and 300 ml. of concentrated hydrochloric acid. The mixture is cooled and ether and water are added. The organic layer is washed, dried and evaporated to give 3.4 gm., 93%, of 2-(5H-dibenzo[a,d]cyclohepten-5-on-2-yl)propionic acid, m.p. (chloroform-hexane) 138°-139°C.; m.p. (acetone-hexane) 113°-115°C. Use of 2-(5H-dibenzo[a,d]cyclohepten-5-on-2-yl)acetonitrile gives a similar yield of 2-(5H-dibenzo[a,d]cyclohepten-5-on-2-yl)acetic acid, m.p. (acetone-hexane) 148°-149.5°C.

reactant | 2-(5H-dibenzo[a,d]cyclohepten-5-on-2-yl)propionitrile | C1=C(C=CC=2C(C3=C(C=CC21)C=CC=C3)=O)C(C#N)C | C18H13NO
reactant | hydrochloric acid | Cl | ClH
reactant | 2-(5H-dibenzo[a,d]cyclohepten-5-on-2-yl)propionic acid | C1=C(C=CC=2C(C3=C(C=CC21)C=CC=C3)=O)C(C(=O)O)C | C18H14O3
reactant | 2-(5H-dibenzo[a,d]cyclohepten-5-on-2-yl)acetonitrile | C1=C(C=CC=2C(C3=C(C=CC21)C=CC=C3)=O)CC#N | C17H11NO
solvent | acetone hexane | CC(=O)C.CCCCCC
solvent | chloroform hexane | C(Cl)(Cl)Cl.CCCCCC
solvent | water | O | H2O
solvent | ether | CCOCC | C4H10O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(5H-dibenzo[a,d]cyclohepten-5-on-2-yl)acetic acid | C1=C(C=CC=2C(C3=C(C=CC21)C=CC=C3)=O)CC(=O)O | C17H12O3
